US06642387B2
Sodium chloroacetate (5.2 g, 0.045 mol) and 4.3 g (0.045 mol) of magnesium chloride were added to a solution of 5.8 g (0.030 mol) of methyl 6-(methylcarboxamido)pyridine-3-carboxylate in 100 ml of THF, and the mixture was stirred at room temperature for 3 hours. Magnesium diisopropylamide chloride solution [solution prepared by adding 20 ml (0.144 mol) of diisopropylamine dropwise at 40° C. to 67 ml (0.120 mol) of a 1.8 M/kg n-butylmagnesium chloride solution in THF, followed by 3 hours of stirring at 40° C.] was added dropwise to this solution at 0° C. over 30 minutes, and the mixture was stirred at room temperature for 27 hours. A solution prepared by dissolving 25 ml (0.300 mol) of concentrated hydrochloric acid in 50 ml of water was added dropwise to the reaction mixture at 0° C. The resulting mixture was extracted with ethylacetate, and the organic phase was washed with a saturated aqueous solution of sodium hydrogen carbonate aqueous solution and dried over sodium sulfate. The solvent was distilled off under reduced pressure and the product was isolated and purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to give 4.5 g (yield 71%) of the desired N1-[5-(2-chloroacetyl)pyridin-2-yl]ethanamide.

reactant | Sodium chloroacetate | 0.045 mol, 5.2 g | ClCC(=O)[O-].[Na+]
reactant | magnesium chloride | 0.045 mol, 4.3 g | [Cl-].[Mg+2].[Cl-]
reactant | Magnesium diisopropylamide chloride | [Cl-].C(C)(C)[N-]C(C)C.[Mg+2]
reactant | diisopropylamine | 0.144 mol, 20 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butylmagnesium chloride | C(CCC)[Mg]Cl
reactant | hydrochloric acid | 0.300 mol, 25 ml | Cl | ClH
reactant | THF | 100 ml | C1CCOC1 | C4H8O
solvent | water | 50 ml | O | H2O
product | N1-[5-(2-chloroacetyl)pyridin-2-yl]ethanamide | 4.5 g, yield 71% | ClCC(=O)C=1C=CC(=NC1)NC(C)=O | C9H9ClN2O2
